US07279580B2
A solution of bromine in MeOH, saturated with KBr (0.86 M, 1.0 ml, 0.86 mmol) was added to a cooled, stirred solution of 8-fluoroimidazo[1,2-α]pyridine (118 mg, 0.86 mmol) and NaOAc (85 mg, 1.04 mmol) in methanol saturated with KBr (1.6 ml). After 2 min, the solution was poured into water (50 ml) and the resulting yellow solution extracted with CH2Cl2 (3×50 ml). The combined organic fractions were dried over anhydrous Na2SO4 and concentrated in vacuo, yielding 3-bromo-8-fluoroimidazo[1,2-α]pyridine as a yellow solid (155 mg, 83%), used without further purification: δH (400 MHz, CDCl3) 6.86-6.91 (1H, m), 6.95-6.99 (1H, m), 7.65 (1H, s), 7.98 (1H, dd, J 0.8 and 6.7); m/z (ES+) 217 (100%, [MH]+), 215 (100).

reactant | bromine | BrBr | Br2
reactant | KBr | 0.86 mmol, 0.86 M, 1.0 ml | [K+].[Br-]
reactant | 8-fluoroimidazo[1,2-α]pyridine | 0.86 mmol, 118 mg | FC=1C=2N(C=CC1)C=CN2 | C7H5FN2
reactant | NaOAc | 1.04 mmol, 85 mg | CC(=O)[O-].[Na+]
reactant | KBr | 1.6 ml | [K+].[Br-]
solvent | MeOH | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 3-bromo-8-fluoroimidazo[1,2-α]pyridine | 155 mg, 83% | BrC1=CN=C2N1C=CC=C2F | C7H4BrFN2
